US09169198B2
The above-described method (Example 3) was repeated to stir 2-methoxyethyl 2-amino-5-cyano-3-methylbenzoate (200 mg, 0.81 mmol) with methylamine (5.40 g, 69.5 mmol, 40% in methanol) and one drop of sodium methoxide (30% in methanol) at room temperature for 18 hours. The entire reaction batch was vacuum distilled and following purification by column chromatography, 2-amino-5-cyano-N,3-dimethylbenzamide (150 mg, 95.0% of theory, 97.8 area % LC) was obtained as a pale brown solid.

reactant | 2-methoxyethyl 2-amino-5-cyano-3-methylbenzoate | 0.81 mmol, 200 mg | NC1=C(C(=O)OCCOC)C=C(C=C1C)C#N | C12H14N2O3
reactant | methylamine | 69.5 mmol, 5.40 g | CN | CH5N
catalyst | sodium methoxide | one drop | C[O-].[Na+]
product | 2-amino-5-cyano-N,3-dimethylbenzamide | 150 mg, 95.0% | NC1=C(C(=O)NC)C=C(C=C1C)C#N | C10H11N3O
